### PR TITLE
Cardinality and Order

### PR DESCRIPTION
**Pull request by LuuBluum**
Expands upon the existing Poset structure, introducing other forms of orderings to define a preorder over cardinalities. Also includes proofs of Cantor's theorem, for both the general (no surjection into the power set) and the set-specific (an embedding into the power set).

Notably, this includes the definition of an apartness relation, which would be useful for #575 .

### CODE REVIEW

**Comment by felixwellen** [comment]
Interesting stuff!

**Comment by felixwellen** [comment]
I think merging master is a good idea.

**Comment by LuuBluum** [comment]
I think it should be good for review now. Just trying to square away all the names to make sure it's all consistent.

File: Cubical/Relation/Binary/Order/Properties.agda [hunk 1]
```diff
@@ -0,0 +1,480 @@
...
+    ℓ ℓ' ℓ'' : Level
+
+module _
+  {A : Type ℓ}
+  {R : Rel A A ℓ'}
+  where
+
+  open BinaryRelation
+
+  isPoset→IsPreorder : IsPoset R → IsPreorder R
```
[the remark this answers is not in the document]
Comment (LuuBluum) [reply Cubical/Relation/Binary/Order/Properties.agda]: Decided to go ahead with the idea here, just because it makes for cleaner includes when you only need to talk about a specific order.

[the remark this answers is not in the document]
Comment (felixwellen) [reply Cubical/Relation/Binary/Order/Properties.agda]: Seems good to me, without looking too closely for now. 
In general: If you see a good way to split up things into files/modules, I would say it is quite likely to be a good thing. I think we have a tendency in the library to leave to much stuff in single modules/files.

**Comment by maxsnew** [comment]
Is this ready? I have a project that uses preorders and might want to base it off of this but don't want to port anything until this is stable

**Comment by LuuBluum** [comment]
> Is this ready? I have a project that uses preorders and might want to base it off of this but don't want to port anything until this is stable

Yeah, there's nothing really else for me to add here.

**Comment by felixwellen** [comment]
Next week I should finally have enough time to merge this - sorry for the long wait.

**Comment by LuuBluum** [comment]
Heh, no worries. Didn't help that I kept making changes and that this is a rather sizable PR as it is.

File: Cubical/Relation/Binary/Order/Toset/Base.agda [hunk 2]
```diff
@@ -0,0 +1,142 @@
+{-# OPTIONS --safe #-}
+module Cubical.Relation.Binary.Order.Toset.Base where
+
+open import Cubical.Foundations.Prelude
+open import Cubical.Foundations.Equiv
+open import Cubical.Foundations.Equiv.HalfAdjoint
```
Comment (felixwellen) [inline Cubical/Relation/Binary/Order/Toset/Base.agda:6]: Unused imports?

File: Cubical/Relation/Binary/Order/Toset/Base.agda [hunk 3]
```diff
@@ -0,0 +1,142 @@
+{-# OPTIONS --safe #-}
```
Comment (felixwellen) [inline Cubical/Relation/Binary/Order/Toset/Base.agda:1]: Explain at least that a "Toset" is a totally ordered set...

File: Cubical/Relation/Binary/Order/Toset/Base.agda [hunk 4]
```diff
@@ -0,0 +1,142 @@
...
+private
+  variable
+    ℓ ℓ' ℓ'' ℓ₀ ℓ₀' ℓ₁ ℓ₁' : Level
+
+record IsToset {A : Type ℓ} (_≤_ : A → A → Type ℓ') : Type (ℓ-max ℓ ℓ') where
+  no-eta-equality
+  constructor istoset
+
+  field
+    is-set : isSet A
```
Comment (felixwellen) [inline Cubical/Relation/Binary/Order/Toset/Base.agda:40]: NAMING.md...

File: Cubical/Relation/Binary/Order/StrictPoset/Base.agda [hunk 5]
```diff
@@ -0,0 +1,123 @@
+{-# OPTIONS --safe #-}
+module Cubical.Relation.Binary.Order.StrictPoset.Base where
+
+open import Cubical.Foundations.Prelude
+open import Cubical.Foundations.Equiv
+open import Cubical.Foundations.Equiv.HalfAdjoint
```
Comment (felixwellen) [inline Cubical/Relation/Binary/Order/StrictPoset/Base.agda:6]: Unused imports?

File: Cubical/Relation/Binary/Order/StrictPoset/Base.agda [hunk 6]
```diff
@@ -0,0 +1,123 @@
...
+private
+  variable
+    ℓ ℓ' ℓ'' ℓ₀ ℓ₀' ℓ₁ ℓ₁' : Level
+
+record IsStrictPoset {A : Type ℓ} (_<_ : A → A → Type ℓ') : Type (ℓ-max ℓ ℓ') where
+  no-eta-equality
+  constructor isstrictposet
+
+  field
+    is-set : isSet A
```
Comment (felixwellen) [inline Cubical/Relation/Binary/Order/StrictPoset/Base.agda:39]: NAMING.md?

File: Cubical/Relation/Binary/Order/StrictPoset/Base.agda [hunk 7]
```diff
@@ -0,0 +1,123 @@
+{-# OPTIONS --safe #-}
```
Comment (felixwellen) [inline Cubical/Relation/Binary/Order/StrictPoset/Base.agda:1]: Please say briefly what a *strict* poset is

File: Cubical/Relation/Binary/Order/Preorder/Base.agda [hunk 8]
```diff
@@ -0,0 +1,136 @@
...
+private
+  variable
+    ℓ ℓ' ℓ'' ℓ₀ ℓ₀' ℓ₁ ℓ₁' : Level
+
+record IsPreorder {A : Type ℓ} (_≲_ : A → A → Type ℓ') : Type (ℓ-max ℓ ℓ') where
+  no-eta-equality
+  constructor ispreorder
+
+  field
+    is-set : isSet A
```
Comment (felixwellen) [inline Cubical/Relation/Binary/Order/Preorder/Base.agda:38]: NAMING.md...

File: Cubical/Relation/Binary/Order/Preorder/Base.agda [hunk 9]
```diff
@@ -0,0 +1,136 @@
...
+    makeIsPreorderEquiv : IsPreorderEquiv (P .snd) e (S .snd)
+    pres≲ makeIsPreorderEquiv x y = propBiimpl→Equiv (P.isPreorder .is-prop-valued _ _)
+                                                  (S.isPreorder .is-prop-valued _ _)
+                                                  (isMon _ _) (isMonInv' _ _)
+      where
+      isMonInv' : ∀ x y → equivFun e x S.≲ equivFun e y → x P.≲ y
+      isMonInv' x y ex≲ey = transport (λ i → retEq e x i P.≲ retEq e y i) (isMonInv _ _ ex≲ey)
+
+
+module PreorderReasoning (P' : Preorder ℓ ℓ') where
```
Comment (felixwellen) [inline Cubical/Relation/Binary/Order/Preorder/Base.agda:124]: Are you sure there is no general way to deal with this for all specializations of posets?

File: Cubical/Relation/Binary/Order/Preorder/Base.agda [hunk 10]
```diff
@@ -0,0 +1,136 @@
+{-# OPTIONS --safe #-}
+module Cubical.Relation.Binary.Order.Preorder.Base where
+
+open import Cubical.Foundations.Prelude
+open import Cubical.Foundations.Equiv
+open import Cubical.Foundations.Equiv.HalfAdjoint
```
Comment (felixwellen) [inline Cubical/Relation/Binary/Order/Preorder/Base.agda:6]: Unused imports?

File: Cubical/Algebra/CommSemiring/Base.agda [hunk 11]
```diff
@@ -14,6 +14,8 @@ private
 record IsCommSemiring {R : Type ℓ}
                   (0r 1r : R) (_+_ _·_ : R → R → R) : Type ℓ where
 
+  constructor iscommsemiring
```
Comment (felixwellen) [inline Cubical/Algebra/CommSemiring/Base.agda:17]: Are you using that?
We say in CONTRIBUTING.md, that copattern matching should be the preferred way of defining elements of record types and if you follow that, you'll never need those constructors - so it should actually be good to *not* define those constructors, to not guide people in the wrong direction.

**Comment by timorl** [comment]
Hi! This PR seems to be a bit dead and I would like this to eventually get merged, because I would like to have #286 for some personal work. Thus I'm planning to try dissecting it into a couple smaller PRs and submitting these with the issues from the above comments resolved and more comments in the code (I will be trying to understand everything that is going on myself, so writing down what I figure out shouldn't be too much effort).

I should be able to preserve authorship, but I would still like to know whether @LuuBluum is fine with that or perhaps just wants to finish the PR? So please let me know whether this is a problem.

You probably have quite some time, I have no idea when I'll actually manage to prepare even the first PR.

**Comment by LuuBluum** [comment]
Oh, sorry about that; I should be able to get around to fixing the issues with this. Was just a bit busy with other stuff as of late.

**Comment by felixwellen** [comment]
You have to rebase onto current master (or merge master into your branch) to resolve the conflicts, let me know if you need help doing that (don't know what your background is). I recommend rebasing before you resolve any other problem.

**Comment by LuuBluum** [comment]
Alright, finally taking a look at this again.

File: Cubical/Relation/Binary/Order/Preorder/Base.agda (hunk 8 above)
Comment (felixwellen) [reply Cubical/Relation/Binary/Order/Preorder/Base.agda:38]: Hm. That one should actually be okay - don't know what I was thinking here.

File: Cubical/Algebra/CommSemiring/Base.agda (hunk 11 above)
Comment (LuuBluum) [reply Cubical/Algebra/CommSemiring/Base.agda]: I think I was just copy-pasting some other algebra file for a more convenient constructor for IsCommSemiring, but one was already pushed so this doesn't matter anymore.

File: Cubical/Relation/Binary/Order/Preorder/Base.agda (hunk 9 above)
Comment (LuuBluum) [reply Cubical/Relation/Binary/Order/Preorder/Base.agda:124]: I think this should be true for all specializations of preorders (since it really just relies on transitivity and reflexivity). Not wholly sure what you'd want me to do here, though (it's been a minute).

Comment (LuuBluum) [reply Cubical/Relation/Binary/Order/Preorder/Base.agda:124]: You can probably devise some way to also handle reasoning for the strict relations, but I don't know of a good way off the top of my head to also have the equivalent of a "qed" at the end, since they're irreflexive.

File: Cubical/Relation/Binary/Order/StrictPoset/Base.agda (hunk 6 above)
Comment (LuuBluum) [reply Cubical/Relation/Binary/Order/StrictPoset/Base.agda:39]: I assume this is also fine as per https://github.com/agda/cubical/pull/969#discussion_r1327768147 ?

File: Cubical/Relation/Binary/Order/Toset/Base.agda (hunk 4 above)
Comment (LuuBluum) [reply Cubical/Relation/Binary/Order/Toset/Base.agda:40]: I assume this is also fine as per https://github.com/agda/cubical/pull/969#discussion_r1327768147 ?

File: Cubical/Relation/Binary/Order/Loset/Base.agda [hunk 12]
```diff
@@ -0,0 +1,129 @@
...
+private
+  variable
+    ℓ ℓ' ℓ'' ℓ₀ ℓ₀' ℓ₁ ℓ₁' : Level
+
+record IsLoset {A : Type ℓ} (_<_ : A → A → Type ℓ') : Type (ℓ-max ℓ ℓ') where
+  no-eta-equality
+  constructor isloset
+
+  field
+    is-set : isSet A
```
[the remark this answers is not in the document]
Comment (LuuBluum) [reply Cubical/Relation/Binary/Order/Loset/Base.agda:41]: I assume this is also fine as per https://github.com/agda/cubical/pull/969#discussion_r1327768147 ?

File: Cubical/Relation/Binary/Order/Apartness/Base.agda [hunk 13]
```diff
@@ -0,0 +1,127 @@
...
+  variable
+    ℓ ℓ' ℓ'' ℓ₀ ℓ₀' ℓ₁ ℓ₁' : Level
+
+record IsApartness {A : Type ℓ} (_#_ : A → A → Type ℓ') : Type (ℓ-max ℓ ℓ') where
+  no-eta-equality
+  constructor isapartness
+
+  field
+    is-set : isSet A
+    is-prop-valued : isPropValued _#_
```
[the remark this answers is not in the document]
Comment (LuuBluum) [reply Cubical/Relation/Binary/Order/Apartness/Base.agda:43]: I assume this is also fine as per https://github.com/agda/cubical/pull/969#discussion_r1327768147 ?

**Comment by LuuBluum** [comment]
Cleaned up the comments.

File: Cubical/Relation/Binary/Order/Apartness/Base.agda (hunk 13 above)
[the remark this answers is not in the document]
Comment (felixwellen) [reply Cubical/Relation/Binary/Order/Apartness/Base.agda:46]: Not sure what to do here, so let's just keep it, since it is just about names.

File: Cubical/Relation/Binary/Order/Loset/Base.agda (hunk 12 above)
[the remark this answers is not in the document]
Comment (felixwellen) [reply Cubical/Relation/Binary/Order/Loset/Base.agda:46]: Yes

File: Cubical/Relation/Binary/Order/Preorder/Base.agda (hunk 9 above)
Comment (felixwellen) [reply Cubical/Relation/Binary/Order/Preorder/Base.agda:123]: Ah, I see - I think that answers my question from back then ;-)

File: Cubical/Relation/Binary/Order/StrictPoset/Base.agda (hunk 6 above)
Comment (felixwellen) [reply Cubical/Relation/Binary/Order/StrictPoset/Base.agda:42]: Yes

File: Cubical/Relation/Binary/Order/Toset/Base.agda (hunk 4 above)
Comment (felixwellen) [reply Cubical/Relation/Binary/Order/Toset/Base.agda:44]: Yes

**Review by felixwellen — APPROVED** [review]
Thanks!
